US05610159
b) N-(4-Azidobut-2-ynyl)-2-(R)-(1-(R)-(3,5-bis(trifluoromethyl)phenyl)ethoxy)-3-(S)-(4-fluorophenyl)morpholine
To a solution of 2-(R)-(1-(R)-(3,5-bis(trifluoromethyl)phenyl)ethoxy)-3-(S)-(4-fluorophenyl)-4-(4-chlorobut-2-ynyl)morpholine (4 g) in dimethyl sulphoxide (17 ml) was added sodium azide (0.562 g). The solution was stirred for 20 h and aqueous ammonium chloride and ethyl acetate were added. The organic phase was washed with water (2 times), saturated brine and dried (MgSO4). The solvent was removed in vacuo and the residue chromatographed on silica gel (eluting with 20% ethyl acetate in petroleum ether bp 60°-80° C.) to give the title compound. 1H NMR (360 MHz, CDCl3) δ1.48 (3H, s, J=6.6 Hz), 2.87 (1H, app t, J=10.2 Hz), 2.98 (1H, td, J=3.6, 11.7 Hz), 3.35 (2H, t, J=1.9 Hz), 3.61 (1H, d, J=2.8 Hz), 3.72 (1H, dq, J=1.4 Hz, 10.0 Hz), 3.92 (2H, t, J=1.9 Hz), 4.30-4.40 (2H, m), 4.89(1H, q, J=6.6 Hz), 7.03 (2H, t, J=8.7 Hz), 7.17 (2H, s), 7.27 br s), 7.63 (1H, s).

reactant | 2-(R)-(1-(R)-(3,5-bis(trifluoromethyl)phenyl)ethoxy)-3-(S)-(4-fluorophenyl)-4-(4-chlorobut-2-ynyl)morpholine | 4 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@@H]1[C@@H](N(CCO1)CC#CCCl)C1=CC=C(C=C1)F)(F)F | C24H21ClF7NO2
reactant | sodium azide | 0.562 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulphoxide | 17 ml | CS(=O)C | C2H6OS
product | N-(4-Azidobut-2-ynyl)-2-(R)-(1-(R)-(3,5-bis(trifluoromethyl)phenyl)ethoxy)-3-(S)-(4-fluorophenyl)morpholine | N(=[N+]=[N-])CC#CCN1[C@H]([C@H](OCC1)O[C@H](C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=C(C=C1)F | C24H21F7N4O2
